US06455550B1
4-[(2,6-Dimethyl-4-trifluoromethyl-3-pyridinyl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]carbonyl]-L-phenylalanine was prepared from 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester and 2,6-dimethyl-4-trifluoromethyl-3-pyridine carboxylic acid using the general procedure described in example 364.

reactant | 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)N)=O | C21H32N2O5S
reactant | 2,6-dimethyl-4-trifluoromethyl-3-pyridine carboxylic acid | CC1=NC(=CC(=C1C(=O)O)C(F)(F)F)C | C9H8F3NO2
product | N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]carbonyl]-L-phenylalanine | CS(=O)(=O)CCCCC1(CCCC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C20H29NO5S
